US07557103B2
Preparation of 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-imidazo[1,2-a]pyridin-3-yl)-imidazo[1,2-b]pyridazine
Using a procedure analogous to Example 16B, 2-methyl-imidazo[1,2-a]pyridine (Chem. Ber. 1926; 59, 2054), (0.38 g, 2.92 mmol) and 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (1.00 g, 2.92 mmol) give the title compound (0.21 g, 0.60 mmol, 21%). 1H NMR (CDCl3): δ 0.91 (t, J=7.5 Hz, 3H), 0.92 (t, J=7.5 Hz, 3H), 1.80-1.95 (m, 4H), 2.42 (s, 3H), 2.43 (s, 3H), 2.45 (s, 3H), 3.34-3.42 (m, 1H), 6.73 (s, 1H), 6.74 (dt, J=6.6, 0.9 Hz, 1H), 7.21-7.25 (m, 1H), 7.52 (d, J=6.6 Hz, 1H), 7.64 (d, J=6.6 Hz, 1H) ppm. ES-MS (m/z): calcd for C21H25N5 (M+H)+: 348.5. found: 348.2.

reactant | 2-methyl-imidazo[1,2-a]pyridine | 2.92 mmol, 0.38 g | CC=1N=C2N(C=CC=C2)C1 | C8H8N2
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.92 mmol, 1.00 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-imidazo[1,2-a]pyridin-3-yl)-imidazo[1,2-b]pyridazine | 0.60 mmol, 0.21 g, 21% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1)C | C21H25N5
